US09290506B2
Into a 5 liter four neck round bottom flask equipped with overhead stirring, condenser, thermocouple and nitrogen inlet was charged (3S)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile ((S)-38, 82.3 g, 0.215 mol), acetonitrile (1510 mL), water (135 mL) and solid lithium tetrafluoroborate (LiBF4, 206 g, 2.15 mol, 10.0 equiv). The resulting reaction mixture was warmed to reflux and stirred at reflux for 24-36 h. When HPLC and TLC showed that the reaction was deemed complete, the reaction mixture was cooled to room temperature. An aqueous ammonium hydroxide (NH4OH) solution (20% v/v) was added to the reaction mixture to adjust pH to 9-10. The resulting reaction mixture was stirred at room temperature for 15-24 h. When HPLC and TLC showed the de-protection reaction was deemed complete, the reaction mixture was filtered through a Celite pad to remove the insoluble materials. The Celite pad was washed with ethyl acetate (500 mL). The filtrate was further diluted with ethyl acetate (1 L) before being washed with a 20% sodium chloride (NaCl) aqueous solution (1 L). The aqueous fraction was back extracted with ethyl acetate (2×500 mL). The combined organic fractions were then concentrated under reduced pressure to remove the solvents to generate a thick white slurry. The slurry was treated with water (2 L) and the resulting mixture was stirred at room temperature for 18 hours. The solids were collected by filtration, and the wet cake was washed with methyl tert-buty lether (MTBE, 500 mL) and heptane (500 mL) before being dried at 50° C. in a vacuum oven to constant weight. The dried, crude product (45 g) was then re-crystallized in ethanol (500 mL) and heptane (350 mL) to afford (3S)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile ((S)-39, 42.8 g, 54.2 g theoretical, 79% yield) as white solids. For (S)-39: 1H NMR (DMSO-d6, 400 MHz) δ ppm 12.1 (bs, 1H), 8.76 (s, 1H), 8.67 (s, 1H), 8.36 (s, 1H), 7.59 (d, 1H, J=3.5 Hz), 6.98 (d, 1H, J=3.5 Hz), 4.98 (m, 1H), 3.19 (d, 2H, J=6.6 Hz), 1.57 (d, 3H, J=6.6 Hz); C13H12N6 (MW, 252.27), LCMS (EI) m/e 253 (M++H).

reactant | (3S)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC#N)C)(C)C | C19H26N6OSi
reactant | acetonitrile | 1510 mL | C(C)#N | C2H3N
reactant | lithium tetrafluoroborate | 2.15 mol, 206 g, 10.0 equiv | F[B-](F)(F)F.[Li+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 135 mL | O | H2O
product | (3S)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butanenitrile | 79% yield | N1=CN=C(C2=C1NC=C2)C=2C=NN(C2)[C@H](CC#N)C | C13H12N6
